US04929741
2.21 g (9.59 mmol) of 3,4,5-trimethoxybenzoyl chloride in 10 ml of methylene chloride and 1 ml of pyridine were o added simultaneously at 0° to a solution of 2.0 g (7.99 mmol) of 4-hydroxy-1-(3,4,5-trimethoxyphenyl)-2-butyn-1-one in 25 ml of methylene chloride. The reaction mixture was stirred at 0° for 30 minutes and at room temperature for 1.5 hours, Whereupon 30 ml of 0.5M hydrochloric acid and 100 ml of methylene chloride were added and the aqueous phase was extracted twice with methylene chloride. The combined organic phases were dried over magnesium sulphate and evaporated, and the residue was chromatographed on silica gel with ether. After recrystallization from ethyl acetate/hexane there was obtained 3-(3,4,5-trimethoxybenzoyl)-2-propynyl 3,4,5-trimethoxybenzoate of melting point 106°-108°.

reactant | 3,4,5-trimethoxybenzoyl chloride | 9.59 mmol, 2.21 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | 4-hydroxy-1-(3,4,5-trimethoxyphenyl)-2-butyn-1-one | 7.99 mmol, 2.0 g | OCC#CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C13H14O5
reactant | hydrochloric acid | 0.5M, 30 ml | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-(3,4,5-trimethoxybenzoyl)-2-propynyl 3,4,5-trimethoxybenzoate | COC=1C=C(C(=O)OCC#CC(C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C(C1OC)OC | C23H24O9
